US07960562B2
2 M dimethylamine/THF solution (0.85 mL) was added to a DMF (5 mL) solution of 2-chloro-N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)ethanimidamide (181 mg), followed by stirring at room temperature for 1 hour. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=50/1), and recrystallized from ethyl acetate/n-hexane to obtain N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-(dimethylamino)ethanimidamide (76 mg).

reactant | dimethylamine THF | 2 M, 0.85 mL | CNC.C1CCOC1
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 2-chloro-N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)ethanimidamide | 181 mg | ClCC(NS(=O)(=O)C1=CC(=CC=C1)C(C(C(=O)C1=CC(=CC(=C1)F)F)=C1NC2=C(N1)C=CC=C2)=O)=N | C24H17ClF2N4O4S
solvent | Water | O | H2O
product | N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-(dimethylamino)ethanimidamide | 76 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(CN(C)C)=N)=C1NC2=C(N1)C=CC=C2)=O | C26H23F2N5O4S
